US06737429B2
To a solution of 160 mg of 5-(3,5-Dichlorophenylthio)-2-methyl-4-isopropyl-1-[(4-pyridyl)methyl]-1H-pyrrole-3-carboxylic acid in 10 ml of dichloromethane were added 60 mg of EDAC, 40 mg of HOBt, 68 mg of 2,4,6-trimethoxybenzylamine hydrochloride and 0.11 ml of N-ethyl morpholine. The reaction mixture was stirred at room temperature for 18 h. The reaction was quenched with saturated sodium bicarbonate solution and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using petrol/ethyl acetate (1:4 then 1:2) then ethyl acetate for the elution to give 29 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-methyl-1-[(4-pyridyl)methyl]-1H-pyrrole as an oil, mass spectrum (ESI) m/z 391 [M+H]+ and 114 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-methyl-1-[(4-pyridyl)methyl]-1H-pyrrole-3-N-[(2,4,6-trimethoxy)benzyl]-carboxamide as an oil, mass spectrum (ESI) m/z 614 [M+H]+.

reactant | 5-(3,5-Dichlorophenylthio)-2-methyl-4-isopropyl-1-[(4-pyridyl)methyl]-1H-pyrrole-3-carboxylic acid | 160 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=C(N1CC1=CC=NC=C1)C)C(=O)O)C(C)C | C21H20Cl2N2O2S
reactant | EDAC | 60 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,4,6-trimethoxybenzylamine hydrochloride | 68 mg | Cl.COC1=C(CN)C(=CC(=C1)OC)OC
reactant | N-ethyl morpholine | 0.11 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-methyl-1-[(4-pyridyl)methyl]-1H-pyrrole | 29 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C=C(N1CC1=CC=NC=C1)C)C(C)C | C20H20Cl2N2S
